US06677368B2
To the suspension of 2-[3-(1H-indol-4-yl)-phenoxy]-ethanol (5.4 g, 21 mmol) in t-BuOH:ethanol:acetic acid (139.5 mL:84 mL:100.5 mL) was added pyridinium tribromide (21.21 g, 63 mmol) portionwise. The mixture was stirred at room temperature for 3 hours, and then to the mixture was added more acetic acid (90 mL) and water (3 mL). Zinc dust (21 g) was added to the reaction mixture portionwise. After stirring for one hour, the unreacted zinc was filtered off and most of the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate, washed with 1N HCl (3×), water (1×), brine (2×), dried over Na2SO4, concentrated. The residue was recrystallized to give 1.82 g (32%) of 4-[3-(2-hydroxy-ethoxy)-phenyl]-1,3-dihydro-indol-2-one.

reactant | 2-[3-(1H-indol-4-yl)-phenoxy]-ethanol | 21 mmol, 5.4 g | N1C=CC2=C(C=CC=C12)C=1C=C(OCCO)C=CC1 | C16H15NO2
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 139.5 mL | C(C)(=O)O | C2H4O2
reactant | pyridinium tribromide | 63 mmol, 21.21 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | Zinc | 21 g | [Zn] | Zn
solvent | water | 3 mL | O | H2O
product | 4-[3-(2-hydroxy-ethoxy)-phenyl]-1,3-dihydro-indol-2-one | 1.82 g, 32% | OCCOC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C16H15NO3
